US04792551
aluminum chloride (270 g) was added in portions to a stirred mixture of phthalic anhydride (270 g) and ethyl benzene (1125 ml). After 4 hours the mixture was poured onto ice and concentrated hydrochloric acid (450 ml) was added. Excess ethylbenzene was removed by steam distillation, and the residual solution was cooled and filtered so as to afford 2-(4-ethylbenzoyl)benzoic acid.

reactant | aluminum chloride | 270 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phthalic anhydride | 270 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | ethyl benzene | 1125 ml | C(C)C1=CC=CC=C1 | C8H10
solvent | hydrochloric acid | 450 ml | Cl | ClH
product | 2-(4-ethylbenzoyl)benzoic acid | C(C)C1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C16H14O3
